US07544699B2
To a solution of 1-cyclopentylmethyl-7-trifluoromethanesulfonyloxy-isoquinoline-3-carboxylic acid methyl ester (0.150 g, 0.359 mmol) in DMSO (7.0 mL) was added potassium acetate (0.317 g, 3.23 mmol), dppf(0.140 mmol), dppp (50 mg), and Pd(OAc)2 (20 mg). The reaction mixture was degassed under vacuum for 5 min and then CO gas was purged through the reaction mixture for 10 min. The reaction mixture was then heated at 75° C. overnight under an atmosphere of CO gas. The reaction mixture was diluted with DCM and extracted with 10% citric acid solution. The organic phase was dried (Na2SO4), and concentrated in vacuo. The crude product was purified by flash column chromatography on silica gel using EtOAc to give 38 mg of 1-cyclopentylmethyl-isoquinoline-3,7-dicarboxylic acid 3-methyl ester as a white solid.

reactant | 1-cyclopentylmethyl-7-trifluoromethanesulfonyloxy-isoquinoline-3-carboxylic acid methyl ester | 0.359 mmol, 0.150 g | COC(=O)C=1N=C(C2=CC(=CC=C2C1)OS(=O)(=O)C(F)(F)F)CC1CCCC1 | C18H18F3NO5S
reactant | potassium acetate | 3.23 mmol, 0.317 g | C(C)(=O)[O-].[K+]
reactant | dppp | 50 mg | C=1C=CC(=CC1)P(CCCP(C=2C=CC=CC2)C=3C=CC=CC3)C=4C=CC=CC4 | C27H26P2
solvent | DMSO | 7.0 mL | CS(=O)C | C2H6OS
catalyst | dppf | 0.140 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Pd(OAc)2 | 20 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1-cyclopentylmethyl-isoquinoline-3,7-dicarboxylic acid 3-methyl ester | 38 mg | COC(=O)C=1N=C(C2=CC(=CC=C2C1)C(=O)O)CC1CCCC1 | C18H19NO4
